US08835472B2
N-[2-(4-Bromo-phenyl)-1,1-dimethyl-ethyl]-formamide
1.00 g (5.64 mmol) N-(1,1-dimethyl-2-phenyl-ethyl)-formamide (I34) is added to 8 mL DCM and cooled down to −5° C. Then 1.50 g (11.3 mmol) aluminium chloride is added by several portions, stirred for 5 min, before 0.9 g (5.64) bromine is added over a period of 1 min. Having finished the addition, the mixture is stirred for two more minutes at 0° C., poured onto ice water and extracted with DCM. The organic layer is dried with MgSO4 and the solvent is removed in vacuo.

reactant | N-(1,1-dimethyl-2-phenyl-ethyl)-formamide | 5.64 mmol, 1.00 g | CC(CC1=CC=CC=C1)(C)NC=O | C11H15NO
reactant | aluminium chloride | 11.3 mmol, 1.50 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | bromine | 0.9 g | BrBr | Br2
solvent | DCM | 8 mL | C(Cl)Cl | CH2Cl2
product | N-[2-(4-Bromo-phenyl)-1,1-dimethyl-ethyl]-formamide | BrC1=CC=C(C=C1)CC(C)(C)NC=O | C11H14BrNO
